US07544716B2
Next, to a suspension of lithium aluminum hydride (44.8 mg, 1.18 mmol) in tetrahydrofuran (5.0 mL) was added 3-piperidin-1-yl-4-(trifluoromethyl)benzonitrile (100.0 mg, 0.39 mmol) at 0° C. The mixture was stirred at 0° C. for 1 hour and at room temperature for 14 hours. To the mixture was added water and extracted with ethylacetate. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (methanol:ethylacetate=1:2) to afford [3-piperidin-1-yl-4-(trifluoromethyl)benzyl]amine (46.8 mg, 46% yield).

reactant | lithium aluminum hydride | 1.18 mmol, 44.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-piperidin-1-yl-4-(trifluoromethyl)benzonitrile | 0.39 mmol, 100.0 mg | N1(CCCCC1)C=1C=C(C#N)C=CC1C(F)(F)F | C13H13F3N2
reactant | water | O | H2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | [3-piperidin-1-yl-4-(trifluoromethyl)benzyl]amine | 46.8 mg, 46% yield | N1(CCCCC1)C=1C=C(CN)C=CC1C(F)(F)F | C13H17F3N2
